US07618978B2
N-(1S, 2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R)-4-(4-methylpentanoyl)-piperazin-2-yl]-ethyl}-4-methylpentanamide hydrochloride
Combine 4-methyl-pentanoic acid (0.047 mL, 0.37 mmol), 2-(R)-[(2-(R)-amino-1-(S)-hydroxy-3-(3,5-difluoro-phenyl)propyl)]piperzine-1-carboxylic acid tert-butyl ester (63 mg, 0.17 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (78 mg, 0.41 mmol), hydroxybenzotriazole (50 mg, 0.41 mmol), triethylamine (0.095 mL, 0.68 mmol), and 4-dimethylaminopyridine (4.6 mg, 0.04 mmol) in 2 mL dichloromethane. Stir at room temperature over night. Subject reaction mixture to silica gel chromatography, eluting with 97:3 dichloromethane:methanol. Stir residue in 4M HCl in 1,4-dioxane over night. Concentrate under reduced pressure to provide the title compound (39 mg, 49%) as a white solid.

reactant | 4-methyl-pentanoic acid | 0.37 mmol, 0.047 mL | CC(CCC(=O)O)C | C6H12O2
reactant | 2-(R)-[(2-(R)-amino-1-(S)-hydroxy-3-(3,5-difluoro-phenyl)propyl)]piperzine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 63 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC(=CC(=C1)F)F)N)O | C18H27F2N3O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.41 mmol, 78 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 0.41 mmol, 50 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 0.68 mmol, 0.095 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.04 mmol, 4.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(1S, 2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(2R)-4-(4-methylpentanoyl)-piperazin-2-yl]-ethyl}-4-methylpentanamide hydrochloride | 39 mg, 49% | Cl.FC=1C=C(C[C@@H]([C@H]([C@@H]2NCCN(C2)C(CCC(C)C)=O)O)NC(CCC(C)C)=O)C=C(C1)F | InChI=1S/C25H39F2N3O3.ClH/c1-16(2)5-7-23(31)29-21(13-18-11-19(26)14-20(27)12-18)25(33)22-15-30(10-9-28-22)24(32)8-6-17(3)4;/h11-12,14,16-17,21-22,25,28,33H,5-10,13,15H2,1-4H3,(H,29,31);1H/t21-,22+,25+;/m0./s1
